data/polar.json
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:2]1([S:5][C:14]([F:7])([F:8])[F:9])[S:4](=[O:16])(=[O:17])[c:10]2[c:21]([cH:19][cH:12][cH:22][cH:25]2)[C:24]1=[O:15].[cH:1]1[c:20]2[cH:18][cH:11][cH:3][cH:13][c:26]2[cH-:6][cH:23]1>>[CH:1]1=[CH:23][CH:6]([S:5][C:14]([F:7])([F:8])[F:9])[c:26]2[cH:13][cH:3][cH:11][cH:18][c:20]21.[N:2]1=[C:24]([O-:15])[c:21]2[c:10]([cH:25][cH:22][cH:12][cH:19]2)[S:4]1(=[O:16])=[O:17]", "epd": [["LP-/Sigma+", [6], [6, 5]], ["Sigma-/Pi+", [5, 2], [2, 24]], ["Pi-/LP+", [24, 15], [15]]]}
{"reaction_name": "Phase-transfer alkylation", "rsmi": "[CH2-:1][C:5]([CH3:2])=[O:4].[CH3:3][Br:6]>>[Br-:6].[CH2:1]([CH3:3])[C:5]([CH3:2])=[O:4]", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Sigma-/LP+", [3, 6], [6]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[c:21]2[cH:18][cH:26][c:24]([S-:6])[cH:15][c:25]2[cH:12][cH:2][cH:23]1.[cH:3]1[cH:10][cH:4][c:5]2[c:11]([o+:7][c:9](-[c:20]3[cH:16][cH:13][cH:22][cH:14][cH:17]3)[cH:8][cH:19]2)[cH:27]1>>[cH:1]1[c:21]2[cH:18][cH:26][c:24]([S:6][CH:19]3[c:5]4[cH:4][cH:10][cH:3][cH:27][c:11]4[O:7][C:9]([c:20]4[cH:16][cH:13][cH:22][cH:14][cH:17]4)=[CH:8]3)[cH:15][c:25]2[cH:12][cH:2][cH:23]1", "epd": [["LP-/Sigma+", [6], [6, 19]], ["Pi-/Pi+", [19, 8], [8, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:2](=[O+:12][CH3:11])[c:13]1[cH:9][cH:7][cH:5][cH:8][cH:10]1.[n:1]1[cH:6][nH:3][cH:4][cH:14]1>>[n:1]1([CH:2]([O:12][CH3:11])[c:13]2[cH:9][cH:7][cH:5][cH:8][cH:10]2)[cH:6][nH+:3][cH:4][cH:14]1", "epd": [["LP-/Pi+", [3], [6, 3]], ["Pi-/Sigma+", [1, 6], [1, 2]], ["Pi-/LP+", [2, 12], [12]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:13]1[N+:25](=[CH:9][CH:39]=[CH:14][c:32]2[cH:10][cH:26][cH:7][cH:27][cH:11]2)[CH:23]([CH2:41][c:37]2[cH:42][cH:20][cH:28][cH:21][cH:43]2)[C:30](=[O:12])[N:38]1[CH3:29])([CH3:33])([CH3:34])[CH3:35].[Li+:22].[c:1]1([CH3:40])[o:24][c:6]([B-:31]23[O:3][CH2:17][C:15]([CH3:8])([CH2:18][O:4]2)[CH2:19][O:5]3)[cH:16][cH:36]1>>[Li+:22].[O:3]1[CH2:17][C:15]2([CH3:8])[CH2:18][O:4][B:31]1[O:5][CH2:19]2.[c:1]1([CH3:40])[o:24][c:6]([CH:14]([c:32]2[cH:10][cH:26][cH:7][cH:27][cH:11]2)[CH:39]=[CH:9][N:25]2[CH:13]([C:2]([CH3:33])([CH3:34])[CH3:35])[N:38]([CH3:29])[C:30](=[O:12])[CH:23]2[CH2:41][c:37]2[cH:42][cH:20][cH:28][cH:21][cH:43]2)[cH:16][cH:36]1", "epd": [["Sigma-/Sigma+", [6, 31], [6, 14]], ["Pi-/Pi+", [14, 39], [39, 9]], ["Pi-/LP+", [9, 25], [25]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[c:1]1([CH:11]=[N+:6]=[N-:19])[cH:4][cH:2][cH:12][cH:3][cH:5]1.[cH:7]1[c:13]([CH+:26][c:14]2[cH:8][c:17]([F:22])[cH:25][c:18]([F:23])[cH:9]2)[cH:10][c:15]([F:20])[cH:24][c:16]1[F:21]>>[c:1]1([CH:11]([N+:6]#[N:19])[CH:26]([c:13]2[cH:7][c:16]([F:21])[cH:24][c:15]([F:20])[cH:10]2)[c:14]2[cH:8][c:17]([F:22])[cH:25][c:18]([F:23])[cH:9]2)[cH:4][cH:2][cH:12][cH:3][cH:5]1", "epd": [["LP-/Pi+", [19], [6, 19]], ["Pi-/Sigma+", [11, 6], [11, 26]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:5]=[S:15](=[O:6])([N:14]([S:13][C:9]([F:10])([F:11])[F:12])[S:16](=[O:7])(=[O:8])[c:36]1[cH:23][cH:31][cH:26][cH:32][cH:24]1)[c:35]1[cH:21][cH:29][cH:25][cH:30][cH:22]1.[c:1]12[cH:27][c:38]([B-:37]([F:18])([F:19])[F:20])[n:17]([CH3:2])[c:33]1[cH:34][cH:4][cH:3][cH:28]2>>[O:5]=[S:15](=[O:6])([N-:14][S:16](=[O:7])(=[O:8])[c:36]1[cH:23][cH:31][cH:26][cH:32][cH:24]1)[c:35]1[cH:21][cH:29][cH:25][cH:30][cH:22]1.[c:1]12[cH:28][cH:3][cH:4][cH:34][c:33]1[N+:17]([CH3:2])=[C:38]([B-:37]([F:18])([F:19])[F:20])[CH:27]2[S:13][C:9]([F:10])([F:11])[F:12]", "epd": [["LP-/Pi+", [17], [38, 17]], ["Pi-/Sigma+", [27, 38], [27, 13]], ["Sigma-/LP+", [13, 14], [14]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][n+:7]1[o:25][n:19][c:10]2[c:15]3[n+:5]([O-:21])[o:2][n:23][c:18]3[c:22]([N+:4]([O-:24])=[O:26])[cH:14][c:28]12.[cH:3]1[cH:11][cH:8][c:17]2[c:6]([cH:27]1)[CH:29]([Zn-:16]([Cl:12])[Cl:13])[CH:20]=[CH:9]2>>[Cl:12][Zn:16][Cl:13].[O-:1][n+:7]1[o:25][n:19][c:10]2[c:28]1[CH:14]([CH:29]1[c:6]3[c:17]([cH:8][cH:11][cH:3][cH:27]3)[CH:9]=[CH:20]1)[C:22](=[N+:4]([O-:24])[O-:26])[c:18]1[c:15]-2[n+:5]([O-:21])[o:2][n:23]1", "epd": [["Sigma-/Sigma+", [29, 16], [29, 14]], ["Pi-/Pi+", [14, 22], [22, 4]], ["Pi-/LP+", [4, 26], [26]]]}
